US05146002
Synthesis of 2,6-bis(4,4-dimethyl-3-oxopentanoyl)-naphthalene
To 2.0 gm of dimethyl 2,6-naphthalene dicarboxylate and 2.8 gm of pinacolone, which had been dissolved in 25 ml of anhydrous tetrahydrofuran, 1.1 gm of 60% sodium hydride was added. The mixture was reacted at 60° C. for 4 hours while stirring. The reaction mixture was poured into ice-cooled 2N hydrochloric acid. Organic substances were extracted using chloroform and, after evaporating the solvent, recrystallized in a mixed solvent of chloroform-methanol to obtain 2.1 gm of the target compound as pale yellow crystals.

reactant | dimethyl 2,6-naphthalene dicarboxylate | 2.0 gm | C1=C(C=CC2=CC(=CC=C12)C(=O)OC)C(=O)OC | C14H12O4
reactant | pinacolone | 2.8 gm | CC(C(C)(C)C)=O | C6H12O
reactant | sodium hydride | 1.1 gm | [H-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2,6-bis(4,4-dimethyl-3-oxopentanoyl)-naphthalene | 2.1 gm | CC(C(CC(=O)C1=CC2=CC=C(C=C2C=C1)C(CC(C(C)(C)C)=O)=O)=O)(C)C | C24H28O4
